US09226500B2
Preparation of (E)-2-Bromo-N-(2-methyl-1-oxo-1-((2,2,2-trifluoroethyl)amino)propan-2-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide (F1)
To (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoic acid (200 mg, 0.409 mmol) in MeCN (5 mL) was added 1H-benzo[d][1,2,3]triazol-1-ol hydrate (63 mg, 0.411 mmol), HBTU (155 mg, 0.409 mmol), N-(2,2,2-trifluoroethyl) 1-amino-2-methyl-propanecarboxamide hydrochloride (180 mg, 0.816 mmol) and diisopropylethylamine (0.24 mL, 1.38 mmol). After 24 h the material was concentrated in vacuo. The crude product was purified by passing the crude reaction mixture through a silica frit and eluting with EtOAc/hexane (1:2). The recovered material was further purified by medium pressure chromatography on silica with EtOAc/hexane as the eluent to afford the title compound as a white foam (147 mg, 55%). Characterization data for this molecule is listed in Table 2.

reactant | (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoic acid | 0.409 mmol, 200 mg | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H9BrCl3F3O2
reactant | 1H-benzo[d][1,2,3]triazol-1-ol hydrate | 0.411 mmol, 63 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | HBTU | 0.409 mmol, 155 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-(2,2,2-trifluoroethyl) 1-amino-2-methyl-propanecarboxamide hydrochloride | 0.816 mmol, 180 mg | Cl.FC(CNC(=O)C(C(C)C)N)(F)F
reactant | diisopropylethylamine | 1.38 mmol, 0.24 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | MeCN | 5 mL | CC#N | C2H3N
product | (E)-2-Bromo-N-(2-methyl-1-oxo-1-((2,2,2-trifluoroethyl)amino)propan-2-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide | 147 mg, 55% | BrC1=C(C(=O)NC(C(NCC(F)(F)F)=O)(C)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C23H18BrCl3F6N2O2
